US07732461B2
(a) {5-({[4-(Methyloxy)phenyl]methyl}oxy)-4-[(trimethylsilyl)ethynyl]-2-pyridinyl}methyl Acetate
(5-({[4-(Methyloxy)phenyl]methyl}oxy)-4-{[(trifluoromethyl)sulfonyl]oxy}-2-pyridinyl)methyl acetate (10 g, 23 mmol) (for a synthesis see WO2004058144, Example 60(d)) was dissolved in acetonitrile (400 ml) and triethylamine (65 ml) and treated with trimethylsilyl acetylene (10 ml, 69 mmol). The mixture was then degassed several times and put under an atmosphere of argon. Copper(I) iodide (0.44 g, 2,3 mmol) and bis(triphenylphosphine)palladium(II) chloride (0.645 g, 0.9 mmol) was added and the mixture heated at 45° C. for 18 h. The mixture was allowed to cool and filtered. The filtrate was concentrated in vacuo and the residue partitioned between ethyl acetate and water. The organic layer was dried then evaporated to dryness. Chromatography on silica gel eluting with 40-60 petrol and ethyl acetate gradient provided the desired compound (8.45 g, 96%).

reactant | (5-({[4-(Methyloxy)phenyl]methyl}oxy)-4-{[(trifluoromethyl)sulfonyl]oxy}-2-pyridinyl)methyl acetate | 23 mmol, 10 g | C(C)(=O)OCC1=NC=C(C(=C1)OS(=O)(=O)C(F)(F)F)OCC1=CC=C(C=C1)OC | C17H16F3NO7S
reactant | triethylamine | 65 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl acetylene | 69 mmol, 10 ml | C[Si](C)(C)C#C | C5H10Si
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
catalyst | Copper(I) iodide | 2,3 mmol, 0.44 g | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.9 mmol, 0.645 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | {5-({[4-(Methyloxy)phenyl]methyl}oxy)-4-[(trimethylsilyl)ethynyl]-2-pyridinyl}methyl Acetate | 8.45 g, 96% | C(C)(=O)OCC1=NC=C(C(=C1)C#C[Si](C)(C)C)OCC1=CC=C(C=C1)OC | C21H25NO4Si
